data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_62821_1,[C:1]([N:4]([N:5]([C:2]([H:15])([H:16])[H:17])[H:9])/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:8]\[N:7]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:4]=[C:6](\[C:3]([H:18])([H:19])[H:20])[N:8]([N:5]([C:2]([H:15])([H:16])[H:17])[H:9])[N:7]([H:10])[H:11])([H:12])([H:13])[H:14],69.72654500002079
MR_589344_0,[C:1](/[C:4](=[N:6]\[N:2]([N:3]([H:8])[H:9])[O:5][H:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C@@:4]([N:3]([H:8])[H:9])([N:6][N:2][O:5][H:7])[H:10])([H:11])([H:12])[H:13],52.2556900000076
MR_114700_1,[C:1](/[N:2]=[C:3](/[O:6][C:4](=[C:5]([H:12])[H:13])[H:8])[H:7])([H:9])([H:10])[H:11]>>[C:1]([N:2]([C:3](=[O:6])[H:7])[C:4](=[C:5]([H:12])[H:13])[H:8])([H:9])([H:10])[H:11],45.75039750002404
MR_535225_0,[C:1](/[C:3]([N:2]([C:5](=[O:7])[H:11])[H:8])=[C:6](\[N:4]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@:3]1([C:5](=[O:7])[H:11])[N:2]([H:8])[C@@:6]1([N:4]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15],70.32204249997974
MR_453076_1,[N:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([O:4][H:5])[H:6]>>[N:1]1([H:6])[C@:2]([O:4][H:5])([H:7])[C:3]1([H:8])[H:9],64.43923000001185
MR_279816_0,[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])[C@:3]([N:5]([H:8])[H:9])([H:11])/[C:6]1=[N:7]\[H:10])([H:12])([H:13])[H:17]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([N:5]([H:8])[H:9])/[C:6](=[N:7]/[H:10])[H:11])([H:12])([H:13])[H:17],70.38291000000441
MR_339402_0,[C:1]([C:2](=[O:6])[H:10])([C:3](=[O:7])[H:11])([O:4][H:9])[O:5][H:8]>>[C:1](=[C:2]([O:6][C:3](=[O:7])[H:11])[H:10])([O:4][H:9])[O:5][H:8],45.01873250001651
MR_213421_0,[C:1]([C:2]([N:7]([H:10])[H:11])([H:12])[H:13])([C:4]([H:18])([H:19])[H:20])([C:5]([H:17])([H:21])[H:22])[N:6]([C:3]([H:14])([H:15])[H:16])[O:8][H:9]>>[C:1]([C:4]([H:18])([H:19])[H:20])([C:5]([H:17])([H:21])[H:22])([N:6]([C:2]([N:7]([H:10])[H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])[O:8][H:9],64.78247250001914
MR_149850_1,[C:1](/[N:2]=[C:5](/[C:4]1([H:8])[C:3](=[O:7])[O:6]1)[H:9])([H:10])([H:11])[H:12]>>[C:1]([n:2]1[c:3](=[O:7])[o:6][c:4]([H:8])[c:5]1[H:9])([H:10])([H:11])[H:12],40.86468250001772
MR_414607_0,[C:1](/[C:4]([C:3]([C:2]([O:5][H:9])=[O:7])=[O:8])=[N:6]/[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([C:2]([O:5][H:9])=[O:7])[C:3](=[O:8])[N:6]1[H:10])([H:11])([H:12])[H:13],67.22846750001437
MR_604959_2,[C@@:1]1([C:4]([H:12])([H:13])[H:14])([O:6][H:8])[C@:2]([O:7][H:9])([H:10])[C@@:3]1([C:5]([H:15])([H:16])[H:17])[H:11]>>[C:1](\[C:2]([O:6][H:8])([O:7][H:9])[H:10])(=[C:3](/[C:5]([H:15])([H:16])[H:17])[H:11])[C:4]([H:12])([H:13])[H:14],57.47711749998672
MR_247423_2,[C:1](\[C:5]([C:2]([C:4]([H:19])([H:20])[H:21])([O:8][H:11])[H:13])([O:7][H:10])[N:9]([C:3]([H:16])([H:17])[H:18])[H:15])(=[N:6]/[H:14])[H:12]>>[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([O:8][H:11])[H:13])(/[C:5]([O:7][H:10])=[N:9]/[C:3]([H:16])([H:17])[H:18])([N:6]([H:14])[H:15])[H:12],60.935897499993104
MR_242436_1,[C:1]([N:5]([H:10])[H:11])([O:6][H:8])([N:7]=[C:4]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])[H:9]>>[C:1](\[N:5]([H:10])[H:11])(=[N:7]/[C:4]([C:2]([H:12])([H:13])[H:17])([C:3]([H:14])([H:15])[H:16])[O:6][H:8])[H:9],45.69831499997719
MR_701246_0,[C:1]1([H:12])([H:13])[C:4](=[O:8])[N:3]([H:9])[C:5]([N:7]([H:10])[H:11])=[C:6]1[C:2]([H:14])([H:15])[H:16]>>[C:1]1([H:12])([H:13])[C:4](=[O:8])[C:6]1([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:3]/[H:9])[N:7]([H:10])[H:11],61.98444999998529
MR_389589_1,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])(/[C:8](=[C:9](/[C:2]([C:5]([H:22])([H:23])[H:24])([C:6]([H:25])([H:26])[H:27])[N:7]([H:12])[H:13])[H:15])[H:14])[O:10][H:11]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])=[C:8]([C:9]([C:2]([C:5]([H:22])([H:23])[H:24])([C:6]([H:25])([H:26])[H:27])[N:7]([H:12])[H:13])([O:10][H:11])[H:15])[H:14],58.42840750001045
MR_238791_0,[N:1]([C:2]([N:3]([H:8])[H:9])=[O:6])([N:4]=[O:5])[H:7]>>[N:1](=[C:2](\[N:3]([H:8])[H:9])[O:6][N:4]=[O:5])\[H:7],26.24832500003848
MR_72079_1,[C:1]([N:3](/[C:4](=[N:7]/[H:8])[H:9])[N:6][C:5]([C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:3][N:6][C@:5]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[N:7]/[H:8])[H:9])[H:10])([H:11])([H:12])[H:13],63.24258749998336
MR_316720_0,[C:1](/[C:4](=[C:5](/[N:3]([H:11])[H:12])[H:14])[H:13])([O:6][H:8])=[N:7]\[N:2]([H:9])[H:10]>>[C:1]1([O:6][H:8])=[C:4]([H:13])[C:5]([N:3]([H:11])[H:12])([H:14])[N:7]1[N:2]([H:9])[H:10],32.47814500000416
MR_585646_2,[C:1](\[C:4]([N:3]([N:5]([H:11])[H:12])[H:9])([O:7][C:2]([H:15])([H:16])[H:17])[O:8][H:13])(=[N:6]/[H:14])[H:10]>>[C:1]([C:4]([N:3]([N:5]([H:11])[H:12])[H:9])=[O:8])([N:6]([H:13])[H:14])([O:7][C:2]([H:15])([H:16])[H:17])[H:10],28.371157500029227
MR_654082_0,[N:1](/[C:3](=[N:6]/[N:5]=[C:2](/[O:4][H:7])[H:10])[H:11])([H:8])[H:9]>>[N:1]([C:3]1([H:11])[C:2]([O:4][H:7])([H:10])[N:5]=[N:6]1)([H:8])[H:9],46.97465000000065
